US07897595B2
3-Bromo-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (152 mg, 414 μmol) in 48% aq. HBr (50 ml) was heated at reflux for 1 h. After neutralization with Na2CO3 and concentration in vacuo, the residue was purified by column chromatography and furnished 13.3 mg (13%) of 3-bromo-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol. 1H-NMR (CDCl3) δ 7.68 (s, 1H), 3.08-2.77 (m, 7H), 1.26 (d, 3H) ppm.

reactant | 3-Bromo-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 414 μmol, 152 mg | BrC1=CC2=C(CCNCC2C)N=C1OC | C11H15BrN2O
solvent | HBr | 50 ml | Br | BrH
product | 3-bromo-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol | 13.3 mg, 13% | BrC1=CC2=C(CCNCC2C)N=C1O | C10H13BrN2O
